US04181688
(i) Preparation of N-Methylol Carbazole (NMC)
105 parts of carbazole, 145 parts of formalin (40% W/V formaldehyde in water) and 265 parts of IMS were thoroughly mixed and then 10 parts of calcium hydroxide added. The mixture was heated with stirring at a temperature of 56° to 58° C. for an hour and thereafter filtered to remove unreacted carbazole and the calcium hydroxide. As the IMS cooled, the product N-methylol carbazole crystallised out of solution. The white crystals were separated by filtration and dried under vacuum at 50° C. for 2 hours. The crystals were identified by proton NMR and IR spectroscopy as NMC, m.p. 127°-129° C., and contained less than 1% carbazole according to gel permeation chromatography, which was used with a U.V. detector. (λ=254 mm).

reactant | carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | formalin | C=O | CH2O
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
product | N-Methylol Carbazole | C(O)N1C2=CC=CC=C2C=2C=CC=CC12 | C13H11NO
